US06589921B2
A solution of 12.72 g (84.8 mmol) 2-formylbenzoic acid, 8.27 g (67.8 mmol) DMAP and 20.69 g (169.6 mmol) 2-phenylethanol in 130 ml dichloromethane was cooled in an ice bath before adding a solution of 19.25 g (93.3 mmol) DCC in 40 ml dichloromethane for 10 min. The reaction medium was maintained under stirring at 0° for 15 min, then at 20° for 48 h. The precipitate formed during the reaction was filtered and the filtrate washed with HCl (10%, 2×) and with a saturated Na2CO3 solution (2×) and with water (2×). The organic phase was dried over Na2SO4, concentrated and chromatographed (SiO2, 8:2 heptane/ether) to give 2.38 g (11%) 2-phenylethyl 2-formylbenzoate in the pure state in the form of a colourless oil.

reactant | 2-formylbenzoic acid | 84.8 mmol, 12.72 g | C(=O)C1=C(C(=O)O)C=CC=C1 | C8H6O3
reactant | 2-phenylethanol | 169.6 mmol, 20.69 g | C1(=CC=CC=C1)CCO | C8H10O
reactant | DCC | 93.3 mmol, 19.25 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 67.8 mmol, 8.27 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 130 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-phenylethyl 2-formylbenzoate | 2.38 g, 11% | C(=O)C1=C(C(=O)OCCC2=CC=CC=C2)C=CC=C1 | C16H14O3
